US07501411B2
Step 1: 3-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)benzoic acid ethyl ester
5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine (1.39 g, 5.00 mmol) and ethyl 3-aminobenzoate (0.93 g, 5.60 mmol) are stirred in iPrOH (10 mL) and HBr (48% aq., 1.14 mL, 10 mmol) is added. The mixture is heated at 85° C. for 4 h and then cooled to rt and quenched with NaHCO3 (sat. aq., 25 mL). The resulting suspension is cooled to 0° C. and the white solid is collected by suction filtration and washed with water (10 mL). The crude product is taken up in EtOH and the solvent evaporated to afford the title compound as an off-white solid (1.79 g, 4.9 mmol) which is used without further purification.

reactant | 5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 5.00 mmol, 1.39 g | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | ethyl 3-aminobenzoate | 5.60 mmol, 0.93 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | HBr | 10 mmol, 1.14 mL | Br | BrH
solvent | iPrOH | 10 mL | CC(C)O | C3H8O
product | 3-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)benzoic acid ethyl ester | 4.9 mmol, 1.79 g | C(C)OC(C1=CC(=CC=C1)NC=1C=2N(C(=CN1)Br)N=CN2)=O | C14H12BrN5O2
